US08871782B2
2-Methyl-1-(2-methylpropyl)-7-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethoxy}-1H-imidazo[4,5-c]quinolinamine
A modification of the method described in Example 19 was used to convert 2-methyl-1-(2-methylpropyl)-7-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine to 0.195 g of 2-methyl-1-(2-methylpropyl)-7-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethoxy}-1H-imidazo[4,5-c]quinolin-4-amine, which was isolated an off-white powder, mp 205-208° C. The product was not recrystallized.

reactant | 2-methyl-1-(2-methylpropyl)-7-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine | CC=1N(C2=C(C(=NC=3C=C(C=CC23)OCCC2CCNCC2)N)N1)CC(C)C | C22H31N5O
reactant | 2-methyl-1-(2-methylpropyl)-7-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethoxy}-1H-imidazo[4,5-c]quinolin-4-amine | 0.195 g | CC=1N(C2=C(C(=NC=3C=C(C=CC23)OCCC2CCN(CC2)C(=O)N2CCOCC2)N)N1)CC(C)C | C27H38N6O3
product | 2-Methyl-1-(2-methylpropyl)-7-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethoxy}-1H-imidazo[4,5-c]quinolinamine | CC1(N(C2=C(C=NC=3C=C(C=CC23)OCCC2CCN(CC2)C(=O)N2CCOCC2)N1)CC(C)C)N | C27H40N6O3
